US06248740B1
Production of tert-butyl [6-[3-[4-(diphenylmethoxy) piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylate
563 mg of 4-(diphenylmethoxy)-1-piperidinepropanamine and 442 mg of tert-butyl (6-chloro[1,2,4]triazolo[1,5-b]pyridazin-2-yl)carboxylate were dissolved in 5 ml of pyridine, followed by stirring at 80° C. for 13.5 hours. After cooling, water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected and concentrated under reduced pressure; the residue was crystallized by the addition of ethyl acetate, collected by filtration, washed with ethyl ether and dried to yield 365 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 563 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | tert-butyl (6-chloro[1,2,4]triazolo[1,5-b]pyridazin-2-yl)carboxylate | 442 mg | ClC=1C=CC=2N(N1)N=C(N2)C(=O)OC(C)(C)C | C10H11ClN4O2
reactant | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl [6-[3-[4-(diphenylmethoxy) piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazin-2-yl]carboxylate | 365 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)N=C(N2)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C31H38N6O3
